US03972890
339.5 g (3 mols) of caprolactam, 430 g (4 mols) of o-phenylene diamine and 30 g of 50 % by weight sulphuric acid are reacted in the same way as described in Example 3, giving 510 g (83.7 % of the theoretical) of 2-(5'-aminopentyl)-benzimidazole with a boiling point at 0.1 Torr of 210° to 220°C, and a melting point of 101°C.

reactant | caprolactam | 3 mols, 339.5 g | C1(CCCCCN1)=O | C6H11NO
reactant | o-phenylene diamine | 4 mols, 430 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-(5'-aminopentyl)-benzimidazole | NCCCCCC=1NC2=C(N1)C=CC=C2 | C12H17N3
